US05095147
35 ml of ethanol are added dr.COPYRGT.pwise at 20° C. to 15.45 g (0.1 mol) of 2,2-difluoro-1-methyl-cyclopropanecarbonyl chloride, with stirring. After the addition of 2 drops of concentrated sulphuric acid, the reaction mixture is refluxed for another hour. Excess ethanol is subsequently distilled off, and the residue is dried and distilled under atmospheric pressure. In this manner, 14.2 g (87% of theory) of ethyl 2,2-difluoro-1-methyl-cyclopropane-carboxylate are obtained in form of a liquid of boiling point 141°-143° C.

reactant | 2,2-difluoro-1-methyl-cyclopropanecarbonyl chloride | 0.1 mol | FC1(C(C1)(C(=O)Cl)C)F | C5H5ClF2O
reactant | ethanol | 35 ml | C(C)O | C2H6O
catalyst | sulphuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
product | ethyl 2,2-difluoro-1-methyl-cyclopropane-carboxylate | 14.2 g, 87% | FC1(C(C1)(C(=O)OCC)C)F | C7H10F2O2
